US07842696B2
A solution of 4-phenyl-1-trityl-1H-pyrazole (120 mg, 0.33 mmol) in Ether.HCl (10 mL) was stirred for 1 hr. The reaction mixture was then concentrated under reduced pressure to afford the residue. The residue obtained was washed with hexane to afford 44 mg (93.61%) of 4-phenyl-1H-pyrazole hydrochloride salt. 1H NMR (DMSO-d6): δ 8.1-8.08 (s, 2H), 7.64 (d, 2H), 7.38 (t, 2H), 7.22 (t, 1H).

reactant | 4-phenyl-1-trityl-1H-pyrazole | 0.33 mmol, 120 mg | C1(=CC=CC=C1)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H22N2
reactant | HCl | 10 mL | Cl | ClH
solvent | Ether | CCOCC | C4H10O
product | 4-phenyl-1H-pyrazole hydrochloride salt | 44 mg, 93.61% | Cl.C1(=CC=CC=C1)C=1C=NNC1 | InChI=1S/C9H8N2.ClH/c1-2-4-8(5-3-1)9-6-10-11-7-9;/h1-7H,(H,10,11);1H
